US04547497
4-[6H-indolo[2,1-c][1,4]benzodiazepin-12-yl]piperazine-1-propanol
A mixture of 5.39 g of 12-methylthio-6H-indolo[2,1-c][1,4]benzodiazepine, the product of Example 1c., and 17 g of 1-piperazinepropanol in a pressurized bottle was heated to 220° C. overnight. The reaction mixture was dissolved in CH2Cl2 and then was washed with water. Removal of solvent in vacuo followed by recrystallization from EtOH gave the title compound, a colorless solid, mp 174°-175° C.

reactant | 12-methylthio-6H-indolo[2,1-c][1,4]benzodiazepine | 5.39 g | CSC1=NC2=C(CN3C1=CC1=CC=CC=C13)C=CC=C2 | C17H14N2S
reactant | 1-piperazinepropanol | 17 g | N1(CCNCC1)CCCO | C7H16N2O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-[6H-indolo[2,1-c][1,4]benzodiazepin-12-yl]piperazine-1-propanol | C1=C2C=C3C(=NC4=C(CN3C2=CC=C1)C=CC=C4)N4CCN(CC4)CCCO | C23H26N4O
